US04297499
Dichlorosilane in an amount of 75.8 g (0.75 mol), 228.5 g of 1-dodecene (1.36 mol) and 0.05 mol % of a catalyst NiCl2 --(PPh3)2 (relative to dichlorosilane) were charged in a 500 ml pressure-proof stainless steel reactor and sealed. A reaction was carried out at 100° C. for 30 hours and the reacted liquid was distilled to obtain n-dodecyldichlorosilane (n--C12H25SiHCl2).

reactant | Dichlorosilane | Cl[SiH2]Cl | Cl2H2Si
reactant | 1-dodecene | 1.36 mol, 228.5 g | C=CCCCCCCCCCC | C12H24
catalyst | NiCl2 | Cl[Ni]Cl
product | n-dodecyldichlorosilane | C(CCCCCCCCCCC)[SiH](Cl)Cl | C12H26Cl2Si
